US05488055
A mixture of N-(1-ethylpyrazol-5-yl)-5-methoxyanthranilic acid (27.5 g, 0.105 mol) and POCl3 (60 ml) was refluxed overnight. The reaction mixture was poured into ice-water, basified with NH4OH and the solid which formed was collected by filtration to afford 20 g of 4-chloro-1-ethyl-6-methoxy-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-ethylpyrazol-5-yl)-5-methoxyanthranilic acid | 0.105 mol, 27.5 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)OC | C13H15N3O3
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 60 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-ethyl-6-methoxy-1H-pyrazolo[3,4-b]quinoline | 20 g | ClC1=C2C(=NC3=CC=C(C=C13)OC)N(N=C2)CC | C13H12ClN3O
